US07851473B2
(3) 2-Bromo-4-(3-chlorophenyl)-1,3-thiazole
A 25% hydrogen bromide/acetic acid (45 ml) solution was added to a solution of 2-(3-chlorophenyl)-2-oxoethyl thiocyanate (4.90 g, 23.2 mmol) in acetic acid (45 ml), and the mixture was stirred at 130° C. for 2 hours and at room temperature for 1 hour. Water (50 ml) was poured to the reaction mixture, and crystals were collected by filtration and washed with water to give 6.36 g (100%) of the desired product as a solid.

reactant | hydrogen bromide acetic acid | 45 ml | Br.C(C)(=O)O
reactant | 2-(3-chlorophenyl)-2-oxoethyl thiocyanate | 23.2 mmol, 4.90 g | ClC=1C=C(C=CC1)C(CSC#N)=O | C9H6ClNOS
reactant | Water | 50 ml | O | H2O
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-4-(3-chlorophenyl)-1,3-thiazole | 6.36 g, 100% | BrC=1SC=C(N1)C1=CC(=CC=C1)Cl | C9H5BrClNS
